US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-{3-[(isopropylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (490 mg, 0.97 mmol) and isopropylamine (175 mg, 3.00 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.97 mmol, 490 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | isopropylamine | 3.00 mmol, 175 mg | C(C)(C)N | C3H9N
product | tert-butyl (3R)-6-cyclohexyl-3-{3-[(isopropylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNC(C)C | C22H39N3O3
